US07932271B2
O-Ethyl S-(6-trifluoromethylpyridin-3-yl) dithiocarbonate
After 6-trifluoromethylpyridin-3-ylamine (1.00 g, 6.02 mmol) was dissolved in 1N hydrochloric acid (15 ml) and methanol (3 ml), a water (3 ml) solution of sodium nitrite (506 mg, 7.22 mmol) was added dropwise to the resulting solution at −10° C. The reaction mixture was added dropwise to a water (15 ml) solution of potassium o-ethyl dithiocarbonate (1.93 g, 12.0 mmol) heated to 65° C. At the same temperature, the reaction mixture was stirred for 30 minutes. After the reaction mixture was cooled to room temperature, the product thus obtained was extracted with ethyl acetate. The extract was washed with brine. The organic layer was dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate=100:1 eluate was concentrated under reduced pressure to give the title compound (895 mg, 3.35 mmol, 56%) as a yellow oil.

reactant | 6-trifluoromethylpyridin-3-ylamine | 6.02 mmol, 1.00 g | FC(C1=CC=C(C=N1)N)(F)F | C6H5F3N2
reactant | water | 3 ml | O | H2O
reactant | sodium nitrite | 7.22 mmol, 506 mg | N(=O)[O-].[Na+]
reactant | water | 15 ml | O | H2O
reactant | potassium o-ethyl dithiocarbonate | 12.0 mmol, 1.93 g | CCOC(=S)[S-].[K+]
solvent | hydrochloric acid | 1N, 15 ml | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
solvent | hexane | CCCCCC | C6H14
product | O-Ethyl S-(6-trifluoromethylpyridin-3-yl) dithiocarbonate | 3.35 mmol, 895 mg, 56% | C(SC=1C=NC(=CC1)C(F)(F)F)(OCC)=S | C9H8F3NOS2
